### PR TITLE
[Merged by Bors] - refactor(Measure): use FunLike

### PR DESCRIPTION
**Pull request by urkud**
---

- [x] depends on: #12668
- [x] depends on: #12706

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by urkud** [comment]
!bench

**Comment by urkud** [comment]
I'll have a look at these files.

**Comment by urkud** [comment]
bench!

**Comment by urkud** [comment]
!bench

File: Mathlib/MeasureTheory/Measure/FiniteMeasure.lean [hunk 1]
```diff
@@ -240,9 +239,8 @@ theorem toMeasure_smul (c : R) (μ : FiniteMeasure Ω) : ↑(c • μ) = c • (
   rfl
 #align measure_theory.finite_measure.coe_smul MeasureTheory.FiniteMeasure.toMeasure_smul
 
-@[simp, norm_cast]
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Measure/FiniteMeasure.lean:243]: Why can't this be `simp`?

File: Mathlib/MeasureTheory/Measure/MeasureSpace.lean [hunk 2]
```diff
@@ -1057,35 +1051,36 @@ instance instCompleteSemilatticeInf [MeasurableSpace α] : CompleteSemilatticeIn
...
-    Adding an explicit `top` made `leanchecker` fail in Lean3 because of lean#364,
-    but in Lean4 it's all right.
-    top := (⊤ : OuterMeasure α).toMeasure
-      (by rw [OuterMeasure.top_caratheodory]; exact le_top)
-    le_top := fun a s hs => by
-      rcases s.eq_empty_or_nonempty with rfl | h <;>
-      dsimp only [] <;>
-        [simp, (rw [fun h' => toMeasure_apply ⊤ h' hs, OuterMeasure.top_apply h]; exact le_top) ]
-    -/
-    completeLatticeOfCompleteSemilatticeInf (Measure α) with
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Measure/MeasureSpace.lean:1070]: This change looks independent to me; can you do it in a standalone PR?

File: Mathlib/MeasureTheory/Measure/FiniteMeasure.lean (hunk 1 above)
Comment (urkud) [reply Mathlib/MeasureTheory/Measure/FiniteMeasure.lean:243]: Because `FiniteMeasure` doesn't use `FunLike` and this coercion goes through `toMeasure`.

File: Mathlib/MeasureTheory/Measure/MeasureSpace.lean (hunk 2 above)
Comment (urkud) [reply Mathlib/MeasureTheory/Measure/MeasureSpace.lean:1070]: Moved to #12706

**Comment by RemyDegenne** [comment]
Thanks!
bors r+
